US04028278
2-Methylene-6,6-dimethyl-1-ethoxycarbonyl-3-cyclohexene:
260 g of ethyl acetoacetate were mixed with 200 g of mesityl oxide and 200 g of trifluoroboro-etherate in a vessel cooled externally by water and ice in order to maintain the temperature of the mixture at about 0°-5°. The said mixture is maintained at this temperature for 3 days, poured then onto ice (800 g) and neutralized with about 400 g of Na2CO3. Then it was extracted with ether and, after the usual treatments of separation, washing and drying, the combined organic extracts were concentrated. Distillation of the residue (135 g) gave 115 g of the desired product, b.p. 85°-90°/0.1 Torr, which has a purity of 80% as shown by analysis by means of vapour phase chromatography. The product can subsequently be purified by redistillation.

reactant | ethyl acetoacetate | 260 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | mesityl oxide | 200 g | O=C(C)C=C(C)C | C6H10O
reactant | Na2CO3 | about 400 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | O | H2O
product | 2-Methylene-6,6-dimethyl-1-ethoxycarbonyl-3-cyclohexene | 115 g | C=C1C(C(CC=C1)(C)C)C(=O)OCC | C12H18O2
